US06521716B1
To 5-amino-2,2,4-trimethylcyclopentylmethylamine (127.76 g, 0.819 mol) in methanol (700 ml) was slowly added with stirring ethyl acetoacetate (215.85 g, 1.660 mol) in methanol (700 ml) over 35 minutes, during which the temperature increased from 22° C. to 31° C. The reaction mixture was allowed to stand at 21° C. overnight (17 h). Further methanol was added, and removal of solvent and drying (91°/100 Pa) gave 1-(1-ethoxycarbonyl-2-prop-1-enylamino)-2-(1-ethoxycarbonyl-2-prop-1-enylaminomethyl)-3,3,5-trimethylcyclopentane (EEMTCP, formula shown below) as a clear light yellow pourable viscous oil (296.54 g, 95%) identified by 1H-NMR, 13C-NMR, FT-IR and Raman spectra.

reactant | 5-amino-2,2,4-trimethylcyclopentylmethylamine | 0.819 mol, 127.76 g | NC1C(CC(C1CN)(C)C)C | C9H20N2
reactant | ethyl acetoacetate | 1.660 mol, 215.85 g | C(CC(=O)C)(=O)OCC | C6H10O3
solvent | methanol | 700 ml | CO | CH4O
solvent | methanol | 700 ml | CO | CH4O
product | 1-(1-ethoxycarbonyl-2-prop-1-enylamino)-2-(1-ethoxycarbonyl-2-prop-1-enylaminomethyl)-3,3,5-trimethylcyclopentane | 296.54 g, 95% | C(C)OC(=O)C=C(C)NC1C(C(CC1C)(C)C)C(C(=O)OCC)NC(=C)C | C21H36N2O4
